Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
dyspnea
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms ___ is a pleasant ___
female with history of rheumatoid arthritis on methotrexate,
fibromyalgia who presents now with approximately ___ weeks of
worsening shortness of breath.  She was initially seen at urgent
care on ___, at that time flu was negative and she was
discharged with abx and steroids for presumed PNA, however
imaging was WNL.  She presented to the ED today because SOB and
CP have been getting worse since her urgent care visit despite
compliance with abx and steroids.  Patient denies any fevers or
productive cough, does endorse overall weakness and fatigue 
which
is chronic for her. No hemoptysis. No abdominal pain/n/v/d, no
pedal edema or weight gain. Patient states that the shortness of
breath is significant enough that it is preventing her from
performing ADLs at home. Of note, when she was started on abx
last tues her rheumatologist advised her to stop methotrexate.

In the ED, initial vitals were: 97.4 99 140/74 18 100% RA.  Pt
was noted to be dyspneic on exertion however maintained sats. 
She was also tachycardic to the 120s with ambulation.  Labs were
notable for WBC 16.4, lactate 2.2, nl chem 7, ddimer 155.  Blood
cxs were sent.  Chest xray showed no acute abnormality, prelim 
CT
chest was concerning for ILD. Pulmonary was called but did not
consult while in the ED

On the floor, pt tells me that sob is worse with any type of
movement, but persists even with lying down.  She becomes short
of breath with just 5 steps.  She states that she did have some
wheezing when she presented to urgent care, but this has since
resolved.  She doesn't feel that she improved at all with
steroids and abx.  She endorses chronic muscle aches/pain,
slightly worse than usual in legs, esp in bilateral calf. No
n/v/d.  Had blood in stool after wiping, never had this before,
noticed last week, resolved, worse with large bowel movements. 
Not painful or itchy.  No cough.  

Review of systems:
(+) Per HPI
(-) Denies fever, chills, night sweats, recent weight loss or
gain. Denies headache, sinus tenderness, rhinorrhea or
congestion.  Denies chest pain or tightness, palpitations. 
Denies
nausea, vomiting, diarrhea, constipation or abdominal pain. No
recent change in bladder habits. No dysuria. Denies arthralgias
or myalgias. 10 pt ros otherwise negative.
 
Past Medical History:
RA on MTX
Carcinoma in situ of cervix uteri 
MIRENA #2 inserted ___ 
Endometriosis, improved with IUD 
Fibromyalgia 
History of adenomatous polyp of colon 
Seropositive rheumatoid arthritis 
Adjustment disorder with mixed anxiety and depression
R shoulder pain ___ yrs, refractory to treatment
 
Social History:
___
Family History:
Unknown (adopted).
 
Physical Exam:
ADMISSION EXAM:
===============
Vitals: 97.9PO 115 / 73 86 18 95  
Constitutional: Alert, oriented, no acute distress, appears
depressed
EYES: Sclera anicteric,  EOMI, PERRL
ENMT: MMM, oropharynx clear, normal hearing, normal nares
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops
Respiratory: Breathing comfortably, clear to auscultation
bilaterally, no wheezes, rales, rhonchi
GI: Soft, non-tender, non-distended, bowel sounds present, no
organomegaly, no rebound or guarding
GU: No foley
EXT: Warm, well perfused, no CCE, bilat calf tenderness on
palpation
NEURO: aaox3 CNII-XII and strength grossly intact 
SKIN: no rashes or lesions
.
.
DISCHARGE EXAM:
===============
VS: 24 HR Data (last updated ___ @ 1537) Temp: 97.9 (Tm 
98.3), BP: 112/77 (110-127/72-81), HR: 89 (73-89), RR: 18, O2 
sat: 94% (94-96), O2 delivery: RA  
Gen: well-appearing, obese, middle-aged woman who is in NAD 
sitting up in bed browsing the web on her iPad
HEENT: EOMI, PERRL, anicteric sclera, MMM, OP clear
Neck: no JVD or visible JVP w/ HOB at 60 degrees, no LAD
Cards: RR, no m/r/g, 2+ DP and radial pulses b/l, no peripheral 
edema
Chest: CTAB, normal WOB at rest, no accessory muscle use, 
breathing appears completely comfortable at rest and in 
conversation
Abd: S, NT, ND, BS+
MSK: grossly normal strength of b/l arms & legs, stable gait
Neuro: AAOx4, clear fluent speech, conversant, no facial droop, 
tongue midline, no tremor, normal coordination of b/l hands/arms
Psych: calm, cooperative

 
Pertinent Results:
ADMISSION LABS:
===============
___ 04:00PM BLOOD WBC-16.4* RBC-4.28 Hgb-13.8 Hct-41.3 
MCV-97 MCH-32.2* MCHC-33.4 RDW-13.6 RDWSD-47.8* Plt ___
___ 04:00PM BLOOD Neuts-87.3* Lymphs-7.1* Monos-4.4* 
Eos-0.1* Baso-0.2 Im ___ AbsNeut-14.37* AbsLymp-1.17* 
AbsMono-0.72 AbsEos-0.01* AbsBaso-0.03
___ 04:00PM BLOOD Glucose-95 UreaN-13 Creat-0.9 Na-144 
K-3.9 Cl-106 HCO3-24 AnGap-14
___ 04:00PM BLOOD proBNP-115
___ 04:00PM BLOOD cTropnT-<0.01
___ 09:41PM BLOOD cTropnT-<0.01
___ 04:00PM BLOOD Calcium-9.3 Phos-2.1* Mg-2.5
___ 04:00PM BLOOD D-Dimer-155
___ 04:28PM BLOOD Lactate-2.2*
.
.
NOTABLE LABS:
=============
___ 05:04AM BLOOD CRP-1.6
___ 03:38PM BLOOD SED RATE-6
___ 05:04AM BLOOD CK(CPK)-19
.
.
MICRO:
========
-___ UCx: no significant growth (final)
-___ BCx: NGTD
-___ 4:30 am Rapid Respiratory Viral Screen & Culture
      Source: Nasopharyngeal swab. 

   Respiratory Viral Culture (Preliminary): 

   Respiratory Viral Antigen Screen (Final ___: 
      Negative for Respiratory Viral Antigen. 
      Specimen screened for: Adeno, Parainfluenza 1, 2, 3, 
Influenza A, B,
      and RSV by immunofluorescence. 
      Refer to respiratory viral culture and/or Influenza PCR 
(results
      listed under "OTHER" tab) for further information.. 
.
.
IMAGING:
========
-___ CT chest w/ contrast
"IMPRESSION: 
1. No signs of interstitial lung disease. 
2. Mild upper lobe predominant emphysema. 
3. Minimal prominence of the segmental bronchi which could 
reflect bronchiectasis in the setting of chronic airways 
inflammation.  Please correlate clinically.  No mucoid bronchial 
impaction or evidence of bronchial wall thickening. 
4. 2 mm pulmonary nodule in the right upper lobe.  Please refer 
to the recommendation section for follow-up. 
  
RECOMMENDATION(S):   For incidentally detected single solid 
pulmonary nodule smaller than 6 mm, no CT follow-up is 
recommended in a low-risk patient, and an optional CT in 12 
months is recommended in a high-risk patient."
.
.
DISCHARGE LABS:
===============
___ 06:13AM BLOOD WBC-8.7 RBC-3.98 Hgb-12.8 Hct-38.3 MCV-96 
MCH-32.2* MCHC-33.4 RDW-13.5 RDWSD-47.5* Plt ___
___ 06:13AM BLOOD Neuts-49.6 ___ Monos-8.4 Eos-1.6 
Baso-0.5 Im ___ AbsNeut-4.33# AbsLymp-3.43 AbsMono-0.73 
AbsEos-0.14 AbsBaso-0.04
___ 06:13AM BLOOD Glucose-90 UreaN-13 Creat-0.9 Na-142 
K-4.2 Cl-106 HCO3-24 AnGap-12
___ 06:13AM BLOOD Calcium-8.3* Phos-3.7 Mg-2.___yspnea on exertion
# Palpitations on exertion
# Severe fatigue
- Suspect her presenting symptoms were due predominantly to 
severe deconditioning, perhaps in setting of recent a viral 
illness +/- reactive airway disease/COPD exacerbation that has 
since resolved (given her report of ___ weeks of wheezing that 
resolved with recent initiation of steroids & clarithromycin).
- Was evaluated by Pulmonology, who found no compelling evidence 
of pulmonary disease as cause of her symptoms, had strong 
suspicion for deconditioning in setting of fibromyalgia, advised 
___ for tx of deconditioning, and advised consideration of 
Psychiatry f/u for the potentially strong psychiatric component 
to her SOB/DOE.
- Underwent EKG exercise stress test on ___ that showed no 
evidence of ischemia or exercise-induced arrythmias, but was 
consistent with severe deconditioning.
- Was evaluated by ___ on ___, who found her to be independent 
in all mobility, with no significant symptoms to warrant 
additional ___ interventions at this time.
- Discharging on her home meds with counseling on gradually 
increasing her activity level and eventually starting a gentle 
exercise program.
- We expect she will return to her full baseline function (or 
better!) if she is motivated to continue to gradually increase 
her activity/exertion at home.

# Right shoulder pain: chronic "for 13 months" per patient 
report (though per review of records this has been present for 
20+ years), patient reports extensive evaluation but no 
successful treatments thus far
- Patient requested tramadol and other pain medications.  We 
explained that narcotics and semi-narcotics (e.g. tramadol) are 
not appropriate treatments for chronic pain, particularly in 
patients with fibromyalgia. 
- We advised her to re-address with her Rheumatologist and/or 
PCP. She might benefit from evaluation in a chronic pain clinic 
for consideration of targeted injections or other specialist 
interventions in this regard if this has not already been tried 
in the past.

# Pulmonary nodule
- found incidentally on CT chest
- recommend 12 month f/u in high risk patient (given her hx of 
smoking, we think she would qualify as high-risk and warrants 
f/u).
.
.
.
============================
Time in Care:
[x] Greater than 30 minutes in discharge-related activities on 
the day of discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Methotrexate 15 mg IM Q THURS 
2. Clarithromycin 500 mg PO Q12H 
3. Methylprednisolone Dose is Unknown  PO DAILY 
4. Diazepam 5 mg PO QHS:PRN teeth grinding 
5. DULoxetine 60 mg PO DAILY 
6. Leucovorin Calcium 10 mg PO Q THURS 
7. Topiramate (Topamax) 75 mg PO QHS 
8. FoLIC Acid 1 mg PO DAILY 
9. Naproxen 500 mg PO DAILY:PRN Pain - Mild 
10. Cyanocobalamin 500 mcg PO DAILY 
11. Magnesium Oxide 500 mg PO DAILY 
12. Vitamin D 1000 UNIT PO DAILY 
13. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Cyanocobalamin 500 mcg PO DAILY  
2.  Diazepam 5 mg PO QHS:PRN teeth grinding  
3.  DULoxetine 60 mg PO DAILY  
4.  FoLIC Acid 1 mg PO DAILY  
5.  Leucovorin Calcium 10 mg PO Q THURS  
6.  Magnesium Oxide 500 mg PO DAILY  
7.  Methotrexate 15 mg IM Q THURS  
8.  Multivitamins 1 TAB PO DAILY  
9.  Naproxen 500 mg PO DAILY:PRN Pain - Mild  
10.  Topiramate (Topamax) 75 mg PO QHS  
11.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Severe deconditioning w/ 
# Dyspnea & palpitations w/ exertion

# RA on chronic immunosuppression w/ MTX
# Fibromyalgia
# Chronic right shoulder pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms ___,

You were admitted with severe fatigue and dyspnea on exertion.  
Initial examination, labs, imaging and microbiologic testing did 
not reveal a clear source for this.  Based on your report of 
sudden onset of the fatigue ___ weeks ago, as well as ___ weeks 
of wheezing that improved after starting steroids (recently), we 
suspect you likely had a viral upper respiratory illness that 
was complicated by severe deconditioning.  You underwent a EKG 
exercise stress test today that was not suggestive of any 
cardiac problems but was suggestive of deconditioning.

As we discussed, the most important thing you can do going 
forward to help your recovery is to gradually increase your 
level of activity and exercise.

Please resume taking your methotrexate on your scheduled day.

Please be sure to follow-up with your Rheumatologist and your 
primary care physician regarding the evaluation and treatment of 
your chronic right shoulder pain.

It was a pleasure caring for you during your hospital stay and 
we wish you a full and speedy recovery.

Sincerely,
The ___ Medicine Team
 
Followup Instructions:
___